US07960365B2
A suspension of 5-chloro-2-ethoxyphenylboronic acid (601 mg, 3.0 mmol), palladium (II) acetate (33 mg, 0.15 mmol) and (R)-1-(4-bromophenyl)ethylamine (295 mg, 1.5 mmol) in water (4 ml) was heated for 5 min at 200° C. in a Smithcreator microwave oven. The reaction mixture was diluted with dichloromethane and purified on a Strata™ 5 g/20 ml SCX column (eluted with 2M ammonia in methanol) to give (R)-1-(5′-chloro-2′-ethoxy-biphenyl-4-yl)-ethylamine (341 mg, 1.2 mmol, 82%). To a solution of 1-(5′-chloro-2′-ethoxy-biphenyl-4-yl)-ethylamine (30 mg, 0.1 mmol) in dichloromethane (0.75 ml) was added triethylamine (36 mg, 0.35 mmol) and 5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonyl chloride (30 mg, 0.13 mmol) in dichloromethane (0.5 ml). The reaction mixture was then agitated at room temperature for 16 h and quenched with acetic acid (200 μl). Purification by preparatory LCMS and removal of solvent under reduced pressure gave the title compound (21 mg, 0.04 mmol, 40%): 1H NMR (400 MHz, DMSO-d6): δ 8.25 (d, 1H), 7.32-7.37 (m, 3H), 7.21-7.24 (m, 3H), 7.10 (d, 1H), 4.35 (m, 1H), 4.05 (m, 2H), 2.20 (s, 3H), 1.26-1.35 (m, 6H) ppm; MS (ESI) m/z: value [M+H]+.

reactant | 5-chloro-2-ethoxyphenylboronic acid | 3.0 mmol, 601 mg | ClC=1C=CC(=C(C1)B(O)O)OCC | C8H10BClO3
reactant | (R)-1-(4-bromophenyl)ethylamine | 1.5 mmol, 295 mg | BrC1=CC=C(C=C1)[C@@H](C)N | C8H10BrN
solvent | water | 4 ml | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | palladium (II) acetate | 0.15 mmol, 33 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (R)-1-(5′-chloro-2′-ethoxy-biphenyl-4-yl)-ethylamine | 1.2 mmol, 341 mg, 82% | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)[C@@H](C)N)OCC | C16H18ClNO
